US08217064B2
Ethyl 2-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)acetate (0.6 g, 1.36 mmol) was dissolved in anhydrous DMF (30 mL), NaH (60% wt. in paraffin oil, 0.136 g, 3.4 mmol) was added at 0° C. The reaction mixture was stirred for 30 min at room temperature and 1,1-bis(bromomethyl)cyclopropane (0.482 g, 1.4 mmol, for preparation see J. Org. Chem. 1993, 58, 4122-26) was added drop wise at 0° C. The reaction mixture was stirred an additional 1 h at 0° C. and saturated NH4Cl solution (10 mL) was added. The reaction mixture was extracted with EtOAc (3×20 mL) and the combined organic phases were washed with water (3×20 mL) and brine (20 mL), and dried over MgSO4. The volatiles were removed under reduced pressure and the residue was purified by flash column chromatography to yield compound ethyl 5-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-spiro[2,3]hexane-5-carboxylate (150 mg) as a low melting solid.

reactant | Ethyl 2-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)acetate | 1.36 mmol, 0.6 g | ClC=1C=C(C=C(C1OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)CC(=O)OCC | C19H15ClF6O3
reactant | NaH | 3.4 mmol, 0.136 g | [H-].[Na+]
reactant | 1,1-bis(bromomethyl)cyclopropane | 1.4 mmol, 0.482 g | BrCC1(CC1)CBr | C5H8Br2
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | ethyl 5-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-spiro[2,3]hexane-5-carboxylate | 150 mg | ClC=1C=C(C=C(C1OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C1(CC2(CC2)C1)C(=O)OCC | C24H21ClF6O3
